US08471005B2
[7-(1,2-Dimethyl-1H-imidazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
Palladium acetate (13.0 mg, 0.0580 mmol) and triphenylphosphine (19.0 mg, 0.0725 mmol) were placed in tetrahydrofuran (2.00 mL). The mixture was allowed to stir at room temperature for 10 minutes. 4-Bromo-1,2-dimethyl-1H-imidazole (102 mg, 0.580) was then added and the reaction was again allowed to stir for 10 minutes. [4-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine (105 mg, 0.242 mmol) was added followed by 1.50 M sodium carbonate in water (0.645 mL, 0.967 mmol) and ethanol (2.00 mL). The reaction mixture was then heated at 80° C. overnight. The reaction was partitioned between DCM (50 mL) and water (50 mL). The organic layer was washed twice with water (50 mL) and then dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by prep-HPLC using a gradient of 10-45% AcN/water both containing 0.1% TFA as the eluting solvent. The product was then free based to obtain the title compound as a yellow solid (22 mg, 23%). m.p.=242-244° C.; LCMS (m/e) 403 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.61 (s, 1H), 7.84 (s, 1H), 7.57-7.50 (m, 2H), 7.24 (d, 1H, J=4.8 Hz), 7.02-6.95 (m, 2H), 6.80 (d, 1H, J=4.8 Hz), 6.55 (bs, 1H), 3.62 (s, 3H), 3.24-3.16 (m, 4H), 2.65-2.57 (m, 4H), 2.46 (s, 3H), 2.38 (s, 3H).

reactant | triphenylphosphine | 0.0725 mmol, 19.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-Bromo-1,2-dimethyl-1H-imidazole | 102 mg | BrC=1N=C(N(C1)C)C | C5H7BrN2
reactant | [4-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 0.242 mmol, 105 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2B2OC(C(O2)(C)C)(C)C | C23H31BN6O2
reactant | sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.967 mmol, 0.645 mL | O | H2O
solvent | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
solvent | ethanol | 2.00 mL | C(C)O | C2H6O
catalyst | Palladium acetate | 0.0580 mmol, 13.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [7-(1,2-Dimethyl-1H-imidazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 22 mg, 23% | CN1C(=NC(=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C)C | C22H26N8
